US07863288B2
To [4-(4-chloro-benzyloxy)-3-fluoro-phenyl]-(1H-pyrrolo[2,3-b]pyridin-3-yl)-methanol (P-1895, 17.7 mg, 0.046 mmol) in tetrahydrofuran (10.0 mL) was added Dess-Martin periodinane (23.5 mg, 0.056 mmol). The reaction was stirred at room temperature for 15 minutes. The reaction was concentrated, then purified with silica gel column chromatography eluting with 50% ethyl acetate in hexane to give a white solid (P-1897, 6.4 mg, 36.3%). MS (ESI) [M+H4]+=381.3.

reactant | [4-(4-chloro-benzyloxy)-3-fluoro-phenyl]-(1H-pyrrolo[2,3-b]pyridin-3-yl)-methanol | 0.046 mmol, 17.7 mg | ClC1=CC=C(COC2=C(C=C(C=C2)C(O)C2=CNC3=NC=CC=C32)F)C=C1 | C21H16ClFN2O2
reactant | Dess-Martin periodinane | 0.056 mmol, 23.5 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
product | [4-(4-chloro-benzyloxy)-3-fluoro-phenyl]-(1H-pyrrolo[2,3-b]pyridin-3-yl)-methanone | ClC1=CC=C(COC2=C(C=C(C=C2)C(=O)C2=CNC3=NC=CC=C32)F)C=C1 | C21H14ClFN2O2
